US08217177B2
tert-butyl 2-(3-methyl-4-oxo-3,4-dihydroquinazolin-6-yl)acetate
To a solution of 6-bromo-3-methylquinazolin-4(3H)-one (0.485 g, 2.0 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.19 g, 0.20 mmol) and Q-phos (0.20 g) in 40 mL of THF was added 2-tert-butoxy-2-oxoethylzinc chloride 0.5 M in diethyl ether (8.1 ml, 4.1 mmol). The reaction was heated at 50° C. for 16 hours and was quenched with 40 mL of satd. NH4Cl. The mixture was diluted with 60 mL of EtOAc. The organic phase was separated, washed with brine, dried over Na2SO4 and concentrated in vacuo to give red solid. The residue was purified by a silica gel column chromatography (5% EtOAc/Hex to EtOAC) to provide a red solid. MS (ESI pos. ion) m/z: 275 (MH+). Calc'd exact mass for C15H18N2O3: 274.

reactant | 6-bromo-3-methylquinazolin-4(3H)-one | 2.0 mmol, 0.485 g | BrC=1C=C2C(N(C=NC2=CC1)C)=O | C9H7BrN2O
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 0.5 M | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | diethyl ether | 4.1 mmol, 8.1 ml | C(C)OCC | C4H10O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.20 mmol, 0.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Q-phos | 0.20 g | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | tert-butyl 2-(3-methyl-4-oxo-3,4-dihydroquinazolin-6-yl)acetate | CN1C=NC2=CC=C(C=C2C1=O)CC(=O)OC(C)(C)C | C15H18N2O3
